US06653471B2
A mixture of 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta(b)pyrrole-3-carboxylic acid ethyl ester (7.0 g, 31.67 mmol), 3-amino-prop-2-enal (3.37 g, 47.5 mmol) and ammonium acetate (365 mg, 4.75 mmol) in triethylamine (7 mL) is heated at 110° C. for 4 h. It is cooled to room temperature and the solid residue is dissolved in 100 mL dichloromethane and 100 mL sat. NaHCO3 solution. Layers are separated and the aqueous phase is extracted with 4:1 DCM/2-propanol (4×100 mL). Combined organic layers are dried (Na2SO4) and evaporated. Flash Chromatography on silica gel, eluting with EtOAc:triethylamine (20:1), provides 3,4,5,6-tetrahydro-3,10-diaza-benzo[e]azulene-1-carboxylic acid ethyl ester (1.6 g, 20%) as off-white solid. 1H NMR (400 MHz, CD3OD) δ1.247 (3H, t), 2.227 (2H, m), 2.631 (4H, m), 4.197 (2H, q), 7.170 (1H, m), 7.405 (1H, s), 7.686 (1H, d), 8.375 (1H, d). MS (ES+) 257 (M+1)

reactant | 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta(b)pyrrole-3-carboxylic acid ethyl ester | 31.67 mmol, 7.0 g | C(C)OC(=O)C=1C2=C(NC1)CCCCC2=O | C12H15NO3
reactant | 3-amino-prop-2-enal | 47.5 mmol, 3.37 g | NC=CC=O | C3H5NO
reactant | ammonium acetate | 4.75 mmol, 365 mg | C(C)(=O)[O-].[NH4+]
solvent | triethylamine | 7 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | 3,4,5,6-tetrahydro-3,10-diaza-benzo[e]azulene-1-carboxylic acid ethyl ester | 1.6 g, 20% | C(C)OC(=O)C1=CNC=2CCCC3=C(C12)N=CC=C3 | C15H16N2O2
